US06559174B2
To a solution of N-BOC-1,3-dihydro-2H-isoindole-1-carboxylic acid (SNPE, 10 g, 38 mmol) in CH2Cl2 (100 mL) and MeOH (100 mL) at 0° C. was added trimethylsilyldiazomethane dropwise until the yellow color persisted. After stirring at rt for 15 min, the reaction mixture was concentrated in vacuo to dryness, and the residue was azeotroped with toluene to yield N-BOC-1,3-dihydro-2H-isoindole-1-carboxylic acid, methyl ester which was used without further purification.

reactant | N-BOC-1,3-dihydro-2H-isoindole-1-carboxylic acid | 38 mmol, 10 g | C(=O)(OC(C)(C)C)N1C(C2=CC=CC=C2C1)C(=O)O | C14H17NO4
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 100 mL | CO | CH4O
product | N-BOC-1,3-dihydro-2H-isoindole-1-carboxylic acid, methyl ester | C(=O)(OC(C)(C)C)N1C(C2=CC=CC=C2C1)C(=O)OC | C15H19NO4
